US06780855B2
380 mg of 11β-fluoro-3-hydroxy-7α-{5-[methyl-(4,4,5,5,5-pentafluoro-pentyl)-amino]-pentyl}-estra-1,3,5(10)-trien-17-one is dissolved in 25 ml of methanol and mixed with 77 mg of sodium borohydride. After 30 minutes of stirring at room temperature, the batch is added to saturated common salt solution, extracted with methylene chloride, dried on magnesium sulfate and concentrated by evaporation in a vacuum. After the crude product is chromatographed on silica gel with a methylene chloride-methanol gradient, 317 mg of 11β-fluoro-7α-{5-[methyl-(4,4,5,5,5-pentafluoro-pentyl)-amino]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol is obtained as a foam, [α]D=+49° (c=0.5 in methanol).

reactant | 11β-fluoro-3-hydroxy-7α-{5-[methyl-(4,4,5,5,5-pentafluoro-pentyl)-amino]-pentyl}-estra-1,3,5(10)-trien-17-one | 380 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN(CCCC(C(F)(F)F)(F)F)C)O | C29H39F6NO2
reactant | sodium borohydride | 77 mg | [BH4-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 11β-fluoro-7α-{5-[methyl-(4,4,5,5,5-pentafluoro-pentyl)-amino]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol | 317 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCN(CCCC(C(F)(F)F)(F)F)C)O | C29H41F6NO2
